* File: DFFPOSX1.pex.netlist
* Created: Wed Jan  2 18:36:24 2008
* Program "Calibre xRC"
* Version "v2007.2_34.24"
* 
.subckt DFFPOSX1  CLK Q D GND VDD
* 
MM21 Q a_66_6# GND GND NMOS_VTL L=5e-08 W=5e-07
MM19 a_76_6# a_2_6# a_66_6# GND NMOS_VTL L=5e-08 W=2.5e-07
MM20 GND Q a_76_6# GND NMOS_VTL L=5e-08 W=2.5e-07
MM18 a_66_6# CLK a_61_6# GND NMOS_VTL L=5e-08 W=2.5e-07
MM17 a_61_6# a_34_4# GND GND NMOS_VTL L=5e-08 W=2.5e-07
MM10 GND CLK a_2_6# GND NMOS_VTL L=5e-08 W=5e-07
MM16 a_34_4# a_22_6# GND GND NMOS_VTL L=5e-08 W=2.5e-07
MM15 GND a_34_4# a_31_6# GND NMOS_VTL L=5e-08 W=2.5e-07
MM14 a_31_6# CLK a_22_6# GND NMOS_VTL L=5e-08 W=2.5e-07
MM13 a_22_6# a_2_6# a_17_6# GND NMOS_VTL L=5e-08 W=2.5e-07
MM12 a_17_6# D GND GND NMOS_VTL L=5e-08 W=2.5e-07
MM11 Q a_66_6# VDD VDD PMOS_VTL L=5e-08 W=1e-06
MM9 VDD Q a_76_84# VDD PMOS_VTL L=5e-08 W=2.5e-07
MM8 a_76_84# CLK a_66_6# VDD PMOS_VTL L=5e-08 W=2.5e-07
MM7 a_66_6# a_2_6# a_61_74# VDD PMOS_VTL L=5e-08 W=5e-07
MM6 a_61_74# a_34_4# VDD VDD PMOS_VTL L=5e-08 W=5e-07
MM0 VDD CLK a_2_6# VDD PMOS_VTL L=5e-08 W=1e-06
MM5 a_34_4# a_22_6# VDD VDD PMOS_VTL L=5e-08 W=5e-07
MM4 VDD a_34_4# a_31_74# VDD PMOS_VTL L=5e-08 W=5e-07
MM3 a_31_74# a_2_6# a_22_6# VDD PMOS_VTL L=5e-08 W=5e-07
MM2 a_22_6# CLK a_17_74# VDD PMOS_VTL L=5e-08 W=5e-07
MM1 a_17_74# D VDD VDD PMOS_VTL L=5e-08 W=5e-07
c_9 a_66_6# 0 0.271997f
c_20 CLK 0 0.350944f
c_27 Q 0 0.202617f
c_32 a_76_84# 0 0.0210573f
c_38 a_76_6# 0 0.0204911f
c_45 a_34_4# 0 0.172306f
c_55 a_2_6# 0 0.283119f
c_59 a_22_6# 0 0.157312f
c_64 D 0 0.0816386f
c_73 GND 0 0.254131f
c_81 VDD 0 0.23624f
*
*.include "DFFPOSX1.pex.netlist.DFFPOSX1.pxi"
*
.ends
*
*
